US07098337B2
b) (4R,9aR)-6-Hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
A solution of 4.2 g (12.1 mmol) (4R,9aR)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2,6-dicarboxylic acid 2-tert-butyl ester 6-methyl ester in 100 ml tetrahydrofuran was cooled to 0 deg C. and treated dropwise with 48.4 ml diisobutylaluminium hydride (48.4 mmol; 1M solution in THF). The cooling bath was removed and after 1 h at room temperature the reaction was quenched with a 10% aqueous potassium sodium tartrate solution and ethyl acetate was added. The two-phase system was filtered through a bed of dicalite speed plus; the filtrate was extracted with ethyl acetate and the organic phase was dried over magnesium sulfate. After filtration and evaporation the residue was purified by chromatography on silica gel (0.032–0.062 mm) with ethyl acetate as eluant to afford the desired product as a light yellow foam (67.3%).

reactant | (4R,9aR)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2,6-dicarboxylic acid 2-tert-butyl ester 6-methyl ester | 12.1 mmol, 4.2 g | COC(=O)C=1N=C2N3[C@@H](CN(C[C@H]3CC2=CC1)C(=O)OC(C)(C)C)C | C18H25N3O4
reactant | diisobutylaluminium hydride | 48.4 mmol, 1M, 48.4 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (4R,9aR)-6-Hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 67.3% | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)CO | C17H25N3O3
